US05047554
Methyl 3-ethoxy-5-isoxazolecarboxylate
A stirred suspension of 3.53 g (24.67 mmole) of a commercial sample of methyl 3-hydroxy-5-isoxazolecarboxylate in 50 ml of methylene chloride was treated dropwise with a solution of triethyloxonium tetrafluoroborate (5.62 g, 29.60 mmole) dissolved in 30 ml of methylene chloride at room temperature. After stirring overnight the solution was washed with water (2×30 ml), 5% sodium bicarbonate (2×30 ml) and water once again. The organic layer was dried (magnesium sulfate) and evaporated in vacuo to furnish the title compound (3.61 g, 86% yield) as a light yellow solid, m.p. 77°-9° C. 1H-NMR (DMSO-d6)delta, 6.65 (1H, s), 3.93 (2H, q, J=7.4 Hz), 3.87 (3H, s) and 1.21 (3H, t, J=7.4 Hz); EIMS (m/z): 171 (M+, 48%), 56 (M+ --CH3, 4%), 143 (C5H 5 NO4, 31%), 112 (C4H2NO3, 12%) and 69 (C3H3NO, base); ir (potassium bromide): 3105, 1744, 1611, 1441, 1241, 1106, 974 and 797 cm-1.

reactant | methyl 3-hydroxy-5-isoxazolecarboxylate | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | triethyloxonium tetrafluoroborate | 29.60 mmole, 5.62 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-ethoxy-5-isoxazolecarboxylate | 3.61 g, 86% yield | C(C)OC1=NOC(=C1)C(=O)OC | C7H9NO4
